US06596751B2
N-(2-Benzoylphenyl)tyrosine methyl ester
A mixture of tyrosine methyl ester hydrochloride (4.8 g), 2-benzoylcyclohexanone (5.0 g), palladium on carbon (1.0 g, 10%), triethylamine (2.9 ml) and anisole (70 ml) was heated at reflux for 20 hours. The reaction mixture was filtered and the filtrate was partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using hexane: ethyl acetate=3:1 as the eluant to afford the title compound (1.83 g, Rf=0.39: thin layer chromatography on a silica gel plate using hexane: ethyl acetate=3:1 as the eluant).

reactant | tyrosine methyl ester hydrochloride | 4.8 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)O)=O
reactant | 2-benzoylcyclohexanone | 5.0 g | C(C1=CC=CC=C1)(=O)C1C(CCCC1)=O | C13H14O2
reactant | anisole | 70 ml | C1(=CC=CC=C1)OC | C7H8O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
product | N-(2-Benzoylphenyl)tyrosine methyl ester | COC([C@@H](NC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)CC1=CC=C(C=C1)O)=O | C23H21NO4
